US08044044B2
19.i. 6-methoxy-quinoline-4-carboxylic acid ethyl ester
To a suspension of 6-methoxy-quinoline-4-carboxylic acid (prepared according to U.S. Pat. No. 5,338,851; 43.8 g, 215.6 mmol) in DMF (215 mL) were added K2CO3 (99%; 60.2 g, 431.2 mmol) and iodoethane (19.4 mL, 237.2 mmol). The mixture was heated at 55° C. overnight. The solvent was evaporated to dryness, and the residue was partitioned between EA (1.5 L) and water (600 mL). The org. layer was washed twice with brine (2×300 mL), dried over Na2SO4, filtered and concentrated to dryness to yield a purple solid (37.5 g).

reactant | 6-methoxy-quinoline-4-carboxylic acid | COC=1C=C2C(=CC=NC2=CC1)C(=O)O | C11H9NO3
reactant | K2CO3 | 431.2 mmol, 60.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 237.2 mmol, 19.4 mL | ICC | C2H5I
solvent | DMF | 215 mL | CN(C)C=O | C3H7NO
product | 6-methoxy-quinoline-4-carboxylic acid ethyl ester | 37.5 g | C(C)OC(=O)C1=CC=NC2=CC=C(C=C12)OC | C13H13NO3
